US06063734
3.0 g of 3-(2,6-difluorophenyl)pyrazole was dissolved in 20 ml of acetonitrile, and 2.52 g of chloroacetonitrile and 4.61 g of potassium carbonate were added thereto at room temperature, and heated under reflux for 5 hours. After acetonitrile was distilled off under reduced pressure, ethyl acetate was added to the residue, which was then washed with a small amount of water. The organic layer was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residual product was recrystallized from a mixed solvent of isopropylether and diethyl ether to obtain 1.74 g of 1-cyanomethyl-3-(2,6-difluorophenyl)pyrazole.

reactant | 3-(2,6-difluorophenyl)pyrazole | 3.0 g | FC1=C(C(=CC=C1)F)C1=NNC=C1 | C9H6F2N2
reactant | chloroacetonitrile | 2.52 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 4.61 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-cyanomethyl-3-(2,6-difluorophenyl)pyrazole | 1.74 g | C(#N)CN1N=C(C=C1)C1=C(C=CC=C1F)F | C11H7F2N3
